US07053212B2
To a solution of N-(2-chloro-4-hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(3-oxo-propyl)-phenyl]-benzenesulfonamide (0.036 g, 0.08 mmol) in 0.2 mL methanol and 0.2 mL methylene chloride was added sodium borohydride (0.014 g, 0.38 mmol). The reaction mixture was stirred at room temperature for 24 hr. Saturated aqueous sodium bicarbonate was added and the aqueous solution was washed with methylene chloride. The organic layer was dried (magnesium sulfate) and concentrated. Medium pressure silica gel chromatography (40% ethyl acetate/hexanes) afforded 0.018 g of N-(2-chloro-4-hydroxy-benzyl)-N-[4-(3-hydroxy-propyl)-phenyl]-2,4,6-trimethyl-benzenesulfonamide. MS 474.0 (M+1)+

reactant | N-(2-chloro-4-hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(3-oxo-propyl)-phenyl]-benzenesulfonamide | 0.08 mmol, 0.036 g | ClC1=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)CCC=O)C=CC(=C1)O | C25H26ClNO4S
reactant | sodium borohydride | 0.38 mmol, 0.014 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 0.2 mL | CO | CH4O
solvent | methylene chloride | 0.2 mL | C(Cl)Cl | CH2Cl2
product | N-(2-chloro-4-hydroxy-benzyl)-N-[4-(3-hydroxy-propyl)-phenyl]-2,4,6-trimethyl-benzenesulfonamide | 0.018 g | ClC1=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)CCCO)C=CC(=C1)O | C25H28ClNO4S
